data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_54984_0,[C:1]([C:2]([C:4]([H:11])([H:15])[H:16])([N:6]=[O:8])[H:10])([C:3]([H:12])([H:13])[H:14])([N:5]=[O:7])[H:9]>>[C:1]([C:2]([C:4]([H:11])([H:15])[H:16])([N:5]=[O:7])[H:10])([C:3]([H:12])([H:13])[H:14])([N:6]=[O:8])[H:9],45.40213500001158
MR_173532_1,[C:1]([C:3]([H:13])([H:14])[H:15])([C:4](=[O:7])[H:9])([O:5][C:2]([H:10])([H:11])[H:12])[O:6][H:8]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([O:6][H:8])[C:4]([O:5][C:2]([H:10])([H:11])[H:12])([H:9])[O:7]1,52.174115000035215
MR_229575_2,[C:1]([N:3]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])/[N:7]=[C:5](\[O:6][H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:3][N:7][C@@:5]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])([O:6][H:9])[H:10])([H:11])([H:12])[H:13],61.83196749997791
MR_155583_0,[C:1]([C:2]([O:6][H:7])([H:10])[H:11])([O:4][O:5][C:3]([H:12])([H:13])[H:14])([H:8])[H:9]>>[C:1]([O:4][C:2]([O:6][H:7])([H:10])[H:11])([O:5][C:3]([H:12])([H:13])[H:14])([H:8])[H:9],63.978017500017046
MR_422808_1,[C:1]([C:3]([O:7][H:11])=[O:8])([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])([N:5]([H:12])[H:13])[O:6][H:10]>>[C:1](=[C:3](\[O:7][H:11])[O:8][C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])(\[N:5]([H:12])[H:13])[O:6][H:10],59.17952499996886
MR_161286_0,[C:1]([C:4]1([C:2]([H:14])([H:15])[H:16])/[C:3](=[N:6]\[H:8])[N:7]1[H:9])([N:5]([H:10])[H:11])([H:12])[H:13]>>[C:1]([C:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]\[H:9])=[N:6]/[H:8])([N:5]([H:10])[H:11])([H:12])[H:13],46.232944999982806
MR_253004_1,[C:1]1(/[C:5]([C:4]([H:15])([H:16])[H:17])=[N:7]/[H:12])([H:8])[C:2]([N:6]([H:10])[H:11])([H:9])[C:3]1([H:13])[H:14]>>[C:1]1(/[C:2](=[N:6]/[H:10])[H:9])([H:8])[C:3]([H:13])([H:14])[C:5]1([C:4]([H:15])([H:16])[H:17])[N:7]([H:11])[H:12],45.631172500039696
MR_553989_0,[C:1](=[C:3]([C:2](=[N:6]/[O:4][H:7])\[H:10])/[H:11])(\[O:5][H:8])[H:9]>>[C@:1]1([O:5][H:8])([H:9])[C:3]([H:11])=[C:2]([H:10])[N:6]1[O:4][H:7],45.63744749998818
MR_317971_0,[N:1](/[C:2](=[C:4]([C:3](=[N:5]\[H:8])/[H:10])\[H:11])[H:9])([H:6])[H:7]>>[N:1]([C:2]1([H:9])[C:4]([H:11])=[C:3]([H:10])[N:5]1[H:8])([H:6])[H:7],48.084697499998086
MR_10668_0,[C:1]([N:5]=[C:2]([N:3]([H:7])[H:8])[N:4]([H:6])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:5](/[C:2](=[N:3]/[H:7])[N:4]([H:6])[H:9])[H:8])([H:10])([H:11])[H:12],43.105485000013815
MR_627935_0,[C:1]([C:4]([C:2](=[C:3]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])[N:5]([H:9])[H:10])=[C:8]([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([C:4]1=[C:2]([N:5]([H:9])[H:10])[C:3]([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[C:8]1([H:18])[H:19])([H:15])([H:16])[H:17],40.57791500002836
MR_463112_1,[C:1]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:8])(/[C:4](=[N:7]\[H:11])[H:12])([O:5][H:9])[O:6][H:10]>>[C:1](=[C:3]([C:2]([H:13])([H:14])[H:15])[O:8][C:4]([N:7][H:11])[H:12])([O:5][H:9])[O:6][H:10],67.17701250000161
MR_526417_0,[C@:1]([C@:2]([C:3]([O:8][H:9])([H:16])[H:17])([N:6]([H:14])[H:15])[H:11])([C:4]([H:18])([H:19])[H:20])([O:7][N:5]([H:12])[H:13])[H:10]>>[C@:1]([C@:2]([N:6]([H:14])[H:15])([O:7][N:5]([H:12])[H:13])[H:11])([C:3]([O:8][H:9])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[H:10],68.12767499995559
MR_406140_1,[C@@:1]([C:2]([H:12])([H:13])[H:14])([C:6]([C:3]([H:15])([H:16])[H:17])=[C:7]([C:4]([H:19])([H:20])[H:21])[C:5]([H:18])([H:22])[H:23])([O:8][O:9][H:10])[H:11]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:6](/[C:3]([H:15])([H:16])[H:17])[C:7]([C:4]([H:19])([H:20])[H:21])([C:5]([H:18])([H:22])[H:23])[O:8][O:9][H:10])[H:11],49.31898999996719
MR_662593_1,[C:1](/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:4](\[C:2]([H:14])([H:15])[H:16])[O:8][H:10])([O:7][C:6](=[O:9])[H:11])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C@:5]([C:3]([H:17])([H:18])[H:19])([C@:4]([C:2]([H:14])([H:15])[H:16])([C:6](=[O:9])[H:11])[O:8][H:10])[O:7]1,65.36479250001136
MR_60983_2,[C:1]1([C:3]([H:11])([H:12])[H:13])([H:9])[C:6]([C:4]([H:14])([H:15])[H:16])(/[N:8]=[C:2](/[C:5]([H:17])([H:18])[H:19])[H:10])[O:7]1>>[C@:1]1([C:3]([H:11])([H:12])[H:13])([H:9])[C@@:2]([C:5]([H:17])([H:18])[H:19])([H:10])[N:8]=[C:6]([C:4]([H:14])([H:15])[H:16])[O:7]1,53.09089249996774
MR_418094_1,[C:1](/[C:4]([N:6]([H:11])[H:12])=[C:8]([C:7](=[C:3](\[C:2]([H:18])([H:19])[H:20])[N:5]([H:9])[H:10])\[H:13])/[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:4]([N:6]([H:11])[H:12])(/[C:8](=[C:7]([C:3](\[C:2]([H:18])([H:19])[H:20])=[N:5]\[H:9])/[H:13])[H:14])[H:10])([H:15])([H:16])[H:17],35.27554000000393
MR_520100_0,[C:1]([C:3]([H:17])([H:18])[H:19])([N:8]([C:5]([N:4]([C:2]([H:14])([H:15])[H:16])[N:6]([H:10])[H:11])=[O:7])[H:9])([H:12])[H:13]>>[C:1]([C:3]([H:17])([H:18])[H:19])(/[N:8]=[C:5](\[N:4]([C:2]([H:14])([H:15])[H:16])[N:6]([H:10])[H:11])[O:7][H:9])([H:12])[H:13],51.86789499998795
MR_139247_0,[C@@:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][H:8])=[O:7])([N:5][O:6])[H:9]>>[C:1](\[C:2]([H:10])([H:11])[H:12])(=[N:5]\[O:6][C:3]([O:4][H:8])=[O:7])[H:9],61.71838999997931
